US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-2-methyl-benzenesulfonamide
A mixture of N-[1-(2-hydroxy-[1,2]oxaborolan-3-ylidenemethyl)-vinyl]-2-methyl-4-nitro-benzenesulfonamide (300 mg, 0.86 mmol) and Pd/C (300 mg, 10% wet) in MeOH (20.0 mL) was placed under a hydrogen atmosphere at 50 psi at rt for 1 h. The solid catalyst was filtered off through a pad of Celite. The filtrate was then concentrated in vacuo and the residue was suspended in hot water. The solid product was filtered and dried to affording 40 mg (15%) of the title compound as a white solid. mp. 174-175° C.; 1H NMR (400 MHz, DMSO-d6) δ ppm 9.90 (br. s., 1H), 9.15 (s, 1H), 7.51 (d, J=8.2 Hz, 1H), 7.40 (d, J=1.6 Hz, 1H), 7.21-7.16 (m, 1H), 7.14-7.09 (m, 1H), 6.34-6.28 (m, 2H), 5.81 (s, 2H), 4.83 (s, 2H), 2.38 (s, 3H); (ESI) m/z=317 (M−1, negative); HPLC purity: 96.23% (MaxPlot 200-400 nm), 97.5% (220 nm).

reactant | N-[1-(2-hydroxy-[1,2]oxaborolan-3-ylidenemethyl)-vinyl]-2-methyl-4-nitro-benzenesulfonamide | 0.86 mmol, 300 mg | OB1OCCC1=CC(=C)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])C | C13H15BN2O6S
reactant | MeOH | 20.0 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 4-Amino-N-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-2-methyl-benzenesulfonamide | 40 mg, 15% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)C | C14H15BN2O4S
